US08067445B2
Step 1: (2′-Cyano-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester
2-Bromo-5-(trifluoromethyl)benzonitrile (5.5 g, 22 mmol), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (7.04 g, 22 mmol), potassium carbonate (7.6 g, 55 mmol), and tetrakis(triphenylphosphine)palladium(0) (0.300 g, 0.25 mmol) were combined in DME (40 mL) and H2O (20 mL). The mixture was purged with N2, and then stirred at 85° C. for 36 hours. After standard work-up, the residue was purified by silica gel chromatography to give the title compound.

reactant | 2-Bromo-5-(trifluoromethyl)benzonitrile | 22 mmol, 5.5 g | BrC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3BrF3N
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 22 mmol, 7.04 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | potassium carbonate | 55 mmol, 7.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DME | 40 mL | COCCOC | C4H10O2
solvent | H2O | 20 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.25 mmol, 0.300 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2′-Cyano-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)C#N)=O | C19H16F3NO3
